US09085555B2
(2S,4R)-4-fluoro-pyrrolidine-2-carboxylic acid 3-chloro-2-fluoro-benzylamide
The title compound was prepared as a TFA salt according to Scheme D5 (steps A and B) from 3-chloro-2-fluoro-benzylamine and (2S,4R)-4-fluoro-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester. MS (LC-MS): 274.9 [M+H]+; tR (HPLC conditions b): 2.23 min.

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 3-chloro-2-fluoro-benzylamine | ClC=1C(=C(CN)C=CC1)F | C7H7ClFN
reactant | (2S,4R)-4-fluoro-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)F)C(=O)O | C10H16FNO4
product | (2S,4R)-4-fluoro-pyrrolidine-2-carboxylic acid 3-chloro-2-fluoro-benzylamide | ClC=1C(=C(CNC(=O)[C@H]2NC[C@@H](C2)F)C=CC1)F | C12H13ClF2N2O
